US07989445B2
N-benzyl-2,2,2-trifluoro-N-methylacetamide
A mixture of N-methylbenzylamine (5 g) and trifluoroacetic anhydride (15 ml) was stirred under ice-cooling for 30 min. The reaction mixture was poured into ice water, and the precipitate was collected by filtration to give the title compound (8.2 g) as a colorless oil.

reactant | N-methylbenzylamine | 5 g | CNCC1=CC=CC=C1 | C8H11N
reactant | trifluoroacetic anhydride | 15 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
product | N-benzyl-2,2,2-trifluoro-N-methylacetamide | 8.2 g | C(C1=CC=CC=C1)N(C(C(F)(F)F)=O)C | C10H10F3NO
